2181-06-16 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2181-6-15**] 06:31 PM
   started in OR
 MULTI LUMEN - START [**2181-6-15**] 06:38 PM
 OR RECEIVED - At [**2181-6-15**] 06:41 PM
 INVASIVE VENTILATION - START [**2181-6-15**] 07:00 PM
 BLOOD CULTURED - At [**2181-6-15**] 07:30 PM
 URINE CULTURE - At [**2181-6-15**] 10:18 PM
 BLOOD CULTURED - At [**2181-6-15**] 10:22 PM
 SPUTUM CULTURE - At [**2181-6-16**] 12:07 AM
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2181-6-15**] 09:42 PM
   Metronidazole - [**2181-6-15**] 10:41 PM
   Ciprofloxacin - [**2181-6-15**] 11:44 PM
   Infusions:
   Insulin - Regular - 1.3 units/hour
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2181-6-16**] 12:03 AM
   Fentanyl - [**2181-6-16**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-6-16**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 141 (111 - 141) bpm
   BP: 95/55(66) {85/48(59) - 133/84(99)} mmHg
   RR: 15 (0 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    Bladder pressure: 12 (12 - 12) mmHg
   Total In:
                                                                 19,407 mL
                                                                    490 mL
   PO:
   TF:
   IVF:
                                                                  9,907 mL
                                                                    465 mL
   Blood products:
                                                                  9,500 mL
                                                                     25 mL
   Total out:
                                                                 16,403 mL
                                                                    541 mL
   Urine:
                                                                    603 mL
                                                                    541 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,004 mL
                                                                    -51 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 92
   PIP: 20 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: 7.37/36/165/20/-3
   Ve: 6.5 L/min
   PaO2 / FiO2: 412
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   109 K/uL
   9.9 g/dL
   175 mg/dL
   0.5 mg/dL
   20 mEq/L
   4.9 mEq/L
   9 mg/dL
   117 mEq/L
   141 mEq/L
   27.6 %
   2.7 K/uL
        [image002.jpg]
                             [**2181-6-15**]  07:16 PM
                             [**2181-6-15**]  07:24 PM
                             [**2181-6-15**]  07:41 PM
                             [**2181-6-15**]  10:06 PM
                             [**2181-6-15**]  10:41 PM
                             [**2181-6-15**]  11:49 PM
                             [**2181-6-16**]  01:55 AM
                             [**2181-6-16**]  03:58 AM
                             [**2181-6-16**]  06:11 AM
   WBC
   2.7
   Hct
   17.0
   24.7
   27.8
   27.8
   27.6
   Plt
   116
   109
   109
   Cr
   0.5
   TCO2
   22
   21
   22
   Glucose
   175
   Other labs: PT / PTT / INR:12.5/28.6/1.1, Fibrinogen:384 mg/dL, Lactic
   Acid:0.7 mmol/L, Ca++:7.8 mg/dL, Mg++:1.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   26F s/p c-section and hysterectomy for placenta accreta/percreta with
   large volume blood loss.
   Placenta Accreta/Percreta s/p C-section/Hysterectomy
   1.        q2h hct, q4h coags for now and space out to Q4H hct and Q6H
   2.        Anticipate more pRBC transfusion, Goal is 25
   3.        Ob/Gyn following closely
   4.        FFP as needed increasing INR
   5.        Cryo for Fibrinogen < 100
   6.        Assess calcium frequently given risk of EDTA chelation from
   transfusions, calcium gluconate sliding scale
   7.        IR Aware for possible embolization if patient's bleeding is
   unmanageable.
   8.        Broad spectrum abx with Vanc/Cipro/Flagyl
   9.        Return to OR Monday to remove packs.
   10.      Pain control as needed
   11.      Monitor PIP for increased intraabdominal pressure
   Respiratory failure: Intubated for surgery.  Patient with large volume
   resuscitation during procedure.  Maintain on AC overnight.  Potential
   return to OR on Monday for removal.
   1.        Continue current vent settings
   2.        Sedation with Fentanyl and Versed
   3.        Ranitidine 150mg po bid
   Asthma: patient with asthma in the past requiring steroids
   1.              MDI as needed
   Tachycardia
   - suspect due to volume depletion and pain, less likely PE. Will
   increase narcotic as tolerated by BP.
    IDDM: insulin gtt, [**Last Name (un) 303**] following
   FEN: sliding scales
   ICU Care
   Nutrition: NPO
   Glycemic Control: insulin gtt
   Lines: RIJ
   Arterial Line - [**2181-6-15**] 06:31 PM
   Multi Lumen - [**2181-6-15**] 06:38 PM
   16 Gauge - [**2181-6-15**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2181-06-16 07:55:00 Physician Attending Progress Note
Chief Complaint: massive blood loss after c-section/hysterectomy for
   placenta percreta
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   26 yo F w/placenta percreta s/p c-section/hysterectomy complicated by
   massive blood loss (EBL 15L).  Received 15 U PRBC, 6 plts, 10 FFP, 1
   cryo, and 8.7L IVF intra-op - still oozing from cervical stump, stump
   rx w/thrombin, 5 lap pads left in abd, fascia closed.  Sent to [**Hospital Unit Name 1**] for
   HD and resp monitoring.  Following Hct q2hrs and
   plts/coag/fibrinogen/ioCa q4.  Tf for Hct <23, plts <100, fibrinogen
   <100.  If HD unstable or Hct not bumping appropriately (getting 2U now
   for Hct 17), call OB stat ([**Doctor First Name **] ob chief b#[**Serial Number 598**], [**First Name8 (NamePattern2) 599**] [**Doctor Last Name 575**] gyn/onc
   attending who did case, primary OB b#[**Serial Number 600**]) and IR for possible
   embolization.  Pt at risk for abd compartment syndrome giving fascia
   closed, following PIPs/bladder pressures.  Empiric abx w/cipro, vanco,
   flagyl while abd packed.  Pt with h/o "severe" asthma, though doing
   well on VC 500x14 w/o autopeep/high PIPs.  BDs.  Minimal FiO2 req
   despite massive vol resuscitation.  Insulin gtt given h/o IDDM.
   Sedated w/fent/versed.  Access- CVL, 2xPIV.
   24 Hour Events:
 ARTERIAL LINE - START [**2181-6-15**] 06:31 PM
   started in OR
 MULTI LUMEN - START [**2181-6-15**] 06:38 PM
 OR RECEIVED - At [**2181-6-15**] 06:41 PM
 INVASIVE VENTILATION - START [**2181-6-15**] 07:00 PM
 BLOOD CULTURED - At [**2181-6-15**] 07:30 PM
 URINE CULTURE - At [**2181-6-15**] 10:18 PM
 BLOOD CULTURED - At [**2181-6-15**] 10:22 PM
 SPUTUM CULTURE - At [**2181-6-16**] 12:07 AM
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2181-6-15**] 09:42 PM
   Metronidazole - [**2181-6-15**] 10:41 PM
   Ciprofloxacin - [**2181-6-15**] 11:44 PM
   Infusions:
   Insulin - Regular - 1.3 units/hour
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2181-6-16**] 12:03 AM
   Fentanyl - [**2181-6-16**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-6-16**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 145 (111 - 145) bpm
   BP: 101/57(70) {85/48(59) - 133/84(99)} mmHg
   RR: 16 (0 - 18) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
   Bladder pressure: 12 (12 - 12) mmHg
   Total In:
                                                                 19,407 mL
                                                                    657 mL
   PO:
   TF:
   IVF:
                                                                  9,907 mL
                                                                    482 mL
   Blood products:
                                                                  9,500 mL
                                                                    175 mL
   Total out:
                                                                 16,403 mL
                                                                    541 mL
   Urine:
                                                                    603 mL
                                                                    541 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,004 mL
                                                                    116 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 92
   PIP: 20 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: 7.37/36/165/22/-3
   Ve: 6.5 L/min
   PaO2 / FiO2: 412
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Wheezes : )
   Abdominal: Soft, Distended
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice, warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   108 K/uL
   77 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.9 mEq/L
   10 mg/dL
   117 mEq/L
   141 mEq/L
   26.8 %
   3.0 K/uL
        [image002.jpg]
                             [**2181-6-15**]  07:16 PM
                             [**2181-6-15**]  07:24 PM
                             [**2181-6-15**]  07:41 PM
                             [**2181-6-15**]  10:06 PM
                             [**2181-6-15**]  10:41 PM
                             [**2181-6-15**]  11:49 PM
                             [**2181-6-16**]  01:55 AM
                             [**2181-6-16**]  03:58 AM
                             [**2181-6-16**]  05:57 AM
                             [**2181-6-16**]  06:11 AM
   WBC
   2.7
   3.0
   Hct
   17.0
   24.7
   27.8
   27.8
   27.6
   26.8
   Plt
   116
   109
   109
   108
   Cr
   0.5
   0.6
   TCO2
   22
   21
   22
   Glucose
   175
   77
   Other labs: PT / PTT / INR:12.5/28.6/1.1, Fibrinogen:384 mg/dL, Lactic
   Acid:0.7 mmol/L, Ca++:8.7 mg/dL, Mg++:1.5 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   26 yr old woman with placeneta oercreta s/p c section hysterectomy
   complaicated by massive blood loss
   1. Massive Blood Loss 2ndry to C hys and percreta:
          PRBC: coming out of OR HCT 21 - goal is 21 or above, checking
   stat repeat
          Plts: only 68 - give a 6 pack now, trend goal above 100 while
   bleeding
          INR: s/p 1.6,
          Fibrinogen 112- only got 1 unit cryo, repeat  and another unit
   for fibringoen less than 100
          iCa very low, check q2 and replete now
          Follow HCT q2, q4 hr cbc/coags
   If HCT dropping or hemodynamically unstable, need stat calls to OB gyn
   and also IR for possible angio to see if there is an artey to embolize
   (though uterine a's are out and would likely be bladder or  vagina so
   would not be amenable to embolization
   Pt has packed abdomen and fascia is closed so would be at risk for
   abdominal compartment syndrome, check baseline bladder pressure, but
   PIPS ok so doubt at least right now
   Cipro, vanco, Flagyl for empric ABX while ABD is packed  - ID
   ocnsuklted by OB Gyn
   2. Respiratory Failure: oxygenation stable despite massive IVF, check
   CXR for
                                       Asthma: currently stable on vent -
   CMV, PIP 29, Pl23 so low resistance will trend
                                                   :  start MDIs
   3. Diabetes: insulin drip for now
   4. Sedation: change to Fent Versed
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2181-6-15**] 06:31 PM
   Multi Lumen - [**2181-6-15**] 06:38 PM
   16 Gauge - [**2181-6-15**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2181-06-17 07:25:00 Physician Resident Progress Note
Chief Complaint: Placenta accreta/percreta with intra-operative
   hemorrhage
   24 Hour Events:
 EKG - At [**2181-6-16**] 08:52 AM
   - Transfused 1 unit PRBC's in AM for Hct 25.6, bumped approriately.
   - Hct trending down overnight, but patient stable, transpulmonary
   pressures stable and UOP 30-50cc/hr.  D/w'd OB and will plan to
   continue transfusion and for OR Monday unless unstable.
   - [**Last Name (un) 303**]: Continue insulin gtt
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2181-6-16**] 08:00 PM
   Ciprofloxacin - [**2181-6-16**] 09:30 PM
   Metronidazole - [**2181-6-16**] 11:49 PM
   Infusions:
   Insulin - Regular - 1 units/hour
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 275 mcg/hour
   Other ICU medications:
   Fentanyl - [**2181-6-16**] 08:00 AM
   Midazolam (Versed) - [**2181-6-16**] 02:20 PM
   Dextrose 50% - [**2181-6-16**] 05:20 PM
   Famotidine (Pepcid) - [**2181-6-16**] 07:30 PM
   Other medications:
   Ipratropium
   H2 blocer
   Albuterol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-6-17**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 123 (123 - 144) bpm
   BP: 102/46(59) {97/43(59) - 124/72(82)} mmHg
   RR: 14 (11 - 19) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.7 kg (admission): 91 kg
   Height: 66 Inch
    CVP: 13 (12 - 294)mmHg
   Total In:
                                                                  7,135 mL
                                                                    980 mL
   PO:
   TF:
   IVF:
                                                                  6,335 mL
                                                                    980 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,310 mL
                                                                    339 mL
   Urine:
                                                                  1,310 mL
                                                                    339 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,825 mL
                                                                    641 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 12 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: ///24/
   Ve: 6.7 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic),
   Tachycardic, regular rhythm
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended, Incision c/d/i
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   94 K/uL
   9.3 g/dL
   95 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.7 mEq/L
   8 mg/dL
   109 mEq/L
   139 mEq/L
   26.4 %
   5.8 K/uL
        [image002.jpg]
                             [**2181-6-16**]  05:57 AM
                             [**2181-6-16**]  06:11 AM
                             [**2181-6-16**]  08:12 AM
                             [**2181-6-16**]  10:18 AM
                             [**2181-6-16**]  01:58 PM
                             [**2181-6-16**]  03:58 PM
                             [**2181-6-16**]  06:06 PM
                             [**2181-6-16**]  08:00 PM
                             [**2181-6-17**]  12:00 AM
                             [**2181-6-17**]  03:59 AM
   WBC
   3.0
   5.8
   Hct
   26.8
   29.2
   25.6
   30.0
   30.1
   28.5
   28.5
   26.4
   26.4
   Plt
   108
   88
   87
   94
   Cr
   0.6
   0.7
   0.6
   TCO2
   22
   Glucose
   77
   54
   95
   Other labs: PT / PTT / INR:13.6/32.3/1.2, Differential-Neuts:26.0 %,
   Band:52.0 %, Lymph:10.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:1427 ng/mL,
   Fibrinogen:635 mg/dL, Lactic Acid:0.7 mmol/L, Ca++:7.3 mg/dL, Mg++:1.4
   mg/dL, PO4:4.1 mg/dL
   Microbiology: [**6-16**] Blood, urine cultures with NGTD
   Sputum with 3+ GPC's in pairs
   Assessment and Plan
   26F s/p c-section and hysterectomy for placenta accreta/percreta with
   large volume blood loss.
   Placenta Accreta/Percreta s/p C-section/Hysterectomy
   1.        q2h hct, q4h coags for now and space out to Q4H hct and Q6H
   2.        Anticipate more pRBC transfusion, Goal is 25
   3.        Ob/Gyn following closely
   4.        FFP as needed increasing INR
   5.        Cryo for Fibrinogen < 100
   6.        Assess calcium frequently given risk of EDTA chelation from
   transfusions, calcium gluconate sliding scale
   7.        IR Aware for possible embolization if patient's bleeding is
   unmanageable.
   8.        Broad spectrum abx with Vanc/Cipro/Flagyl
   9.        Return to OR Monday to remove packs.
   10.      Pain control as needed
   11.      Monitor PIP for increased intraabdominal pressure
   Respiratory failure: Intubated for surgery.  Patient with large volume
   resuscitation during procedure.  Maintain on AC overnight.  Potential
   return to OR on Monday for removal.
   1.        Continue current vent settings
   2.        Sedation with Fentanyl and Versed
   3.        Ranitidine 150mg po bid
   Asthma: patient with asthma in the past requiring steroids
   1.              MDI as needed
   Tachycardia
   - suspect due to volume depletion and pain, less likely PE. Will
   increase narcotic as tolerated by BP.
    IDDM: insulin gtt, [**Last Name (un) 303**] following
   FEN: sliding scales
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2181-6-15**] 06:31 PM
   Multi Lumen - [**2181-6-15**] 06:38 PM
   16 Gauge - [**2181-6-15**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2181-06-17 07:41:00 Physician Attending Progress Note
Chief Complaint: massive blood loss after c-section/hysterectomy for
   placenta percreta
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 EKG - At [**2181-6-16**] 08:52 AM
   Transfused 1 U PRBC yest for Hct 25
   This am getting another unit for Hct 23
   Good uop O/N, PIPs in good range
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2181-6-16**] 08:00 PM
   Ciprofloxacin - [**2181-6-16**] 09:30 PM
   Metronidazole - [**2181-6-16**] 11:49 PM
   Infusions:
   Insulin - Regular - 1 units/hour
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 275 mcg/hour
   Other ICU medications:
   Fentanyl - [**2181-6-16**] 08:00 AM
   Midazolam (Versed) - [**2181-6-16**] 02:20 PM
   Dextrose 50% - [**2181-6-16**] 05:20 PM
   Famotidine (Pepcid) - [**2181-6-16**] 07:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain not too bad
   Flowsheet Data as of  [**2181-6-17**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 121 (121 - 144) bpm
   BP: 106/48(64) {97/43(59) - 124/72(82)} mmHg
   RR: 9 (9 - 19) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.7 kg (admission): 91 kg
   Height: 66 Inch
   CVP: 13 (12)mmHg
   Total In:
                                                                  7,135 mL
                                                                    996 mL
   PO:
   TF:
   IVF:
                                                                  6,335 mL
                                                                    996 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,310 mL
                                                                    339 mL
   Urine:
                                                                  1,310 mL
                                                                    339 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,825 mL
                                                                    657 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP:
   Plateau:
   SpO2: 99%
   ABG: ///24/
   Ve: 6.7 L/min
   Physical Examination
   Intubated, sedated but easily arousable and answering questions
   appropriately
   Coarse BS anteriorly b/l
   Nl s1s2, reg, tachy
   Abd distended, hypoactive BS, minimal serosanguinous drainage on
   dressing, no peri-drainage
   Ext warm, mild edema, good peripheral pulses throughout
   Labs / Radiology
   9.3 g/dL
   94 K/uL
   95 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.7 mEq/L
   8 mg/dL
   109 mEq/L
   139 mEq/L
   26.4 %
   5.8 K/uL
        [image002.jpg]
                             [**2181-6-16**]  05:57 AM
                             [**2181-6-16**]  06:11 AM
                             [**2181-6-16**]  08:12 AM
                             [**2181-6-16**]  10:18 AM
                             [**2181-6-16**]  01:58 PM
                             [**2181-6-16**]  03:58 PM
                             [**2181-6-16**]  06:06 PM
                             [**2181-6-16**]  08:00 PM
                             [**2181-6-17**]  12:00 AM
                             [**2181-6-17**]  03:59 AM
   WBC
   3.0
   5.8
   Hct
   26.8
   29.2
   25.6
   30.0
   30.1
   28.5
   28.5
   26.4
   26.4
   Plt
   108
   88
   87
   94
   Cr
   0.6
   0.7
   0.6
   TCO2
   22
   Glucose
   77
   54
   95
   Other labs: PT / PTT / INR:13.6/32.3/1.2, Differential-Neuts:26.0 %,
   Band:52.0 %, Lymph:10.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:1427 ng/mL,
   Fibrinogen:635 mg/dL, Lactic Acid:0.7 mmol/L, Ca++:7.3 mg/dL, Mg++:1.4
   mg/dL, PO4:4.1 mg/dL, ioCa 1.09
   [**6-16**] sputum - 3+GPC in prs, >25pmns, <10epis
   Bld and urine cxs NGTD
   Portable CXR
 low lung volumes, no infiltrates or effusions, ETT and
   RIJ positions ok
   Assessment and Plan
   26 yo F w/placenta percreta s/p c/hyst c/b massive intra-op blood
   loss.  Cont ooze at end of operation, req lap pads left in abd.
   Currently HD stable.
   1. Acute Blood Loss:
   Following Hct/plts/coags/fibrinogen q8hrs (tf for Hct <25, plts <50,
   fibrinogen <100).
   If Hct dropping precipitously or becomes HD unstable, will page OB stat
   and also contact IR for possible embolization of bladder vessels.
   Abd packed and fascia closed, so pt at risk for developing abd
   compartment syndrome.  Following PIPs (which have been ok).  Bladder
   pressure checked once- normal (12).  Avoiding further bladder pressure
   measurements as [**First Name11 (Name Pattern1) **]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) 481**] to manipulate bladder w/ongoing bleeding
   (placenta was densely adherent to bladder w/bld supply from bladder).
   Plan for re-exploration in OR on [**6-18**].
   2. ID:
   Empiric cipro, vanco, and flagyl while abd packed.
   3. Respiratory Failure:
   Oxygenation stable despite massive resuscitation.
   Will cont full vent support (despite excellent RSBI), as patient just
   received significant volume load and plan is to take patient back to OR
   on [**6-18**].
   Cont BDs given h/o asthma.  PIPs adequate/no e/o auto-peep on current
   settings.
   4. IDDM:
   Insulin gtt
   5. Tachycardia:
   ST- likely [**3-10**] vol depletion and pain.  Bolus 1L LR now and increase
   fentanyl gtt over versed gtt.
   6. Sedation:
   Fent/Versed
   7. FEN:
   NPO for now.  IoCa in good range.
   ICU Care
   Nutrition: NPO with bile from OGT
 try Low intermittent suction
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2181-6-15**] 06:31 PM
   Multi Lumen - [**2181-6-15**] 06:38 PM
   16 Gauge - [**2181-6-15**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill
   ------ Protected Section ------
   Pt with progressive tachycardia to 140, BPs holding in 115/60 range,
   still with UOP.
   [**Month (only) 51**] be assoc with pain, up on fentanyl, down on versed, bolus 1 liter
   LR. Send stat HCT to check for acute blood loss.
   CC:  time 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 90**] [**Last Name (NamePattern1) 385**], MD
   on:[**2181-6-17**] 14:32 ------

2181-06-18 07:41:00 Physician Resident Progress Note
Chief Complaint: Acute blood loss
   24 Hour Events:
   26 yo F w/placenta percreta s/p c-section/hysterectomy (at 35wks) c/b
   massive blood loss (EBL 15L).  Received 15 U PRBC, 6 plts, 10 FFP, 1
   cryo, and 8.7L IVF intra-op.  Was still oozing from cervical [**Last Name (LF) 601**], [**First Name3 (LF) **]
   [**First Name3 (LF) 601**] rx w/ thrombin and 5 lap pads left in abd; fascia closed.  Sent
   to [**Hospital Unit Name 1**] for HD and resp monitoring.
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2181-6-17**] 08:00 PM
   Ciprofloxacin - [**2181-6-17**] 09:43 PM
   Metronidazole - [**2181-6-18**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2181-6-17**] 08:00 AM
   Midazolam (Versed) - [**2181-6-18**] 03:50 AM
   Fentanyl - [**2181-6-18**] 03:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: [**6-12**] Moderate
   Flowsheet Data as of  [**2181-6-18**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 124 (123 - 141) bpm
   BP: 94/33(47) {92/29(44) - 113/59(71)} mmHg
   RR: 14 (7 - 15) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 108.8 kg (admission): 91 kg
   Height: 66 Inch
    CVP: 20 (16 - 23)mmHg
   Total In:
                                                                  6,622 mL
                                                                  1,053 mL
   PO:
   TF:
   IVF:
                                                                  6,247 mL
                                                                  1,053 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,029 mL
                                                                  1,715 mL
   Urine:
                                                                  1,929 mL
                                                                  1,715 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  4,593 mL
                                                                   -662 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 660) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 78
   PIP: 31 cmH2O
   Plateau: 30 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 6.2 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) PERRL, pinpoint
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Distended, Tender: lower quadrants
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, No(t) Oriented (to): , Movement: Not assessed, Tone: Not
   assessed, tracks, nods yes and no
   Labs / Radiology
   104 K/uL
   9.1 g/dL
   84 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.0 mEq/L
   6 mg/dL
   109 mEq/L
   137 mEq/L
   25.8 %
   6.6 K/uL
        [image002.jpg]
                             [**2181-6-16**]  03:58 PM
                             [**2181-6-16**]  06:06 PM
                             [**2181-6-16**]  08:00 PM
                             [**2181-6-17**]  12:00 AM
                             [**2181-6-17**]  03:59 AM
                             [**2181-6-17**]  08:10 AM
                             [**2181-6-17**]  01:51 PM
                             [**2181-6-17**]  07:45 PM
                             [**2181-6-18**]  12:09 AM
                             [**2181-6-18**]  04:18 AM
   WBC
   5.8
   6.6
   Hct
   30.1
   28.5
   28.5
   26.4
   26.4
   23.9
   26.9
   26.6
   25.8
   25.8
   Plt
   87
   94
   104
   Cr
   0.7
   0.6
   0.6
   Glucose
   54
   95
   84
   Other labs: PT / PTT / INR:14.4/33.9/1.2, Differential-Neuts:26.0 %,
   Band:52.0 %, Lymph:10.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:1427 ng/mL,
   Fibrinogen:714 mg/dL, Lactic Acid:0.7 mmol/L, Ca++:7.6 mg/dL, Mg++:1.5
   mg/dL, PO4:3.4 mg/dL
   Imaging: none
   Microbiology: none
   Assessment and Plan
   26 yo F w/placenta percreta s/p c/hyst c/b massive intra-op blood
   loss.  Cont ooze at end of operation, req lap pads left in abd.
   Currently HD stable.
   1. Acute Blood Loss:
   Following Hct/plts/coags/fibrinogen q8hrs (tf for Hct <25, plts <50,
   fibrinogen <100).
   If Hct dropping precipitously or becomes HD unstable, will page OB stat
   and also contact IR for possible embolization of bladder vessels.
   Abd packed and fascia closed, so pt at risk for developing abd
   compartment syndrome.  Following PIPs (which have been ok).  Bladder
   pressure checked once- normal (12).  Avoiding further bladder pressure
   measurements as [**First Name11 (Name Pattern1) **]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) 481**] to manipulate bladder w/ongoing bleeding
   (placenta was densely adherent to bladder w/bld supply from bladder).
   Plan for re-exploration in OR today in early afternoon
   2. ID:
   Empiric cipro, vanco, and flagyl while abd packed.
   3. Respiratory Failure:
   Oxygenation stable despite massive resuscitation.
   Will cont full vent support (despite excellent RSBI), as patient just
   received significant volume load and plan is to take patient back to OR
   on [**6-18**].
   Cont BDs given h/o asthma.  PIPs adequate/no e/o auto-peep on current
   settings.
   4. IDDM:
   Insulin gtt
   5. Tachycardia:
   ST- likely [**3-10**] vol depletion and pain.  Bolus 1L LR now and increase
   fentanyl gtt over versed gtt.
   6. Sedation:
   Fent/Versed
   7. FEN:
   NPO for now.  IoCa in good range.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2181-6-15**] 06:31 PM
   Multi Lumen - [**2181-6-15**] 06:38 PM
   16 Gauge - [**2181-6-15**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2181-06-20 07:46:00 Physician Resident Progress Note
Chief Complaint: 26 yo F w/placenta percreta s/p c/hyst c/b massive
   intra-op blood loss.
   24 Hour Events:
   - Diuresed about 700cc during day
   - 4pm extubated w/o difficulty
   - Some nausea during afternoon given PRN's
   - Endocrine - wants to add prolactin/cortisol to AM labs for ? [**Doctor Last Name 633**]
   Syndrome
   - OB - never called back, but patient aware had hysterectomy
   - Will need Lactation consult for assistance with lactation given long
   ICU stay, d/w OB in AM.
   - Agitated overnight switched to prn morphine from fentanyl boluses.
   Off of midazolam and fentanyl drips,
   - ?CT Head given disconjugate gaze and confusion.
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2181-6-19**] 08:30 PM
   Ciprofloxacin - [**2181-6-19**] 10:11 PM
   Metronidazole - [**2181-6-20**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2181-6-19**] 10:50 AM
   Famotidine (Pepcid) - [**2181-6-19**] 08:00 PM
   Fentanyl - [**2181-6-19**] 11:30 PM
   Morphine Sulfate - [**2181-6-20**] 03:30 AM
   Other medications:
   Haldol prn
   Morphine prn
   H2 blocker
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: sedated, arousable, oriented x3
   Eyes: dyscongugate gaze, which resolved once she focuses
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: Abdominal pain, lower abdominal pain, well controlled
   per patient
   Flowsheet Data as of  [**2181-6-20**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.8
C (98.2
   HR: 105 (85 - 134) bpm
   BP: 138/82(95) {95/53(53) - 141/89(96)} mmHg
   RR: 13 (10 - 24) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.7 kg (admission): 91 kg
   Height: 66 Inch
    CVP: 14 (7 - 14)mmHg
   Total In:
                                                                  3,440 mL
                                                                    236 mL
   PO:
   TF:
   IVF:
                                                                  3,440 mL
                                                                    236 mL
   Blood products:
   Total out:
                                                                  4,175 mL
                                                                    365 mL
   Urine:
                                                                  4,175 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -735 mL
                                                                   -129 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 513 (502 - 535) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 32
   SpO2: 97%
   ABG: 7.43/33/114/27/0
   Ve: 10.3 L/min
   PaO2 / FiO2: 326
   Physical Examination
   General Appearance: Well nourished, sedated, arousable, oriented x3
   Eyes / Conjunctiva: PERRL, discongugate gaze, transient and resolves
   when she focuses
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic),
   tachycardic and regular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Bowel sounds present, Mild TTP in the lower quadrants,
   incision c/d/i
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Sedated, Tone: Not
   assessed
   Labs / Radiology
   200 K/uL
   11.5 g/dL
   85 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.7 mEq/L
   4 mg/dL
   107 mEq/L
   140 mEq/L
   33.9 %
   13.7 K/uL
        [image002.jpg]
                             [**2181-6-18**]  10:11 PM
                             [**2181-6-18**]  11:43 PM
                             [**2181-6-18**]  11:53 PM
                             [**2181-6-19**]  04:19 AM
                             [**2181-6-19**]  04:26 AM
                             [**2181-6-19**]  12:23 PM
                             [**2181-6-19**]  03:17 PM
                             [**2181-6-19**]  03:32 PM
                             [**2181-6-19**]  07:50 PM
                             [**2181-6-20**]  03:48 AM
   WBC
   9.9
   12.5
   13.7
   Hct
   34.3
   34.5
   34.1
   33.2
   33.9
   Plt
   174
   178
   200
   Cr
   0.5
   0.6
   TCO2
   26
   27
   28
   28
   23
   Glucose
   174
   84
   85
   Other labs: PT / PTT / INR:14.5/29.2/1.3, ALT / AST:14/29, Alk Phos / T
   Bili:73/0.4, Differential-Neuts:26.0 %, Band:52.0 %, Lymph:10.0 %,
   Mono:4.0 %, Eos:2.0 %, D-dimer:1427 ng/mL, Fibrinogen:618 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.0 g/dL, LDH:264 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.4 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: Prolactin: 179
   Cortisol: 17.7
   Fibrinogen: 618
   FDP: 10-40
   Imaging: CTA:
   1. No evidence of pulmonary embolism.
   2. Multifocal pneumonia, bilateral pleural effusions with atelectasis.
   Microbiology: Blood from [**6-15**]: NGTD
   Urine from [**6-15**]: NGTD
   Sputum from [**6-16**]: sparse oropharyngeal flora
   Peritoneal swab: GBS
   Assessment and Plan
   26 yo F w/placenta percreta s/p c/hyst c/b massive intra-op blood
   loss.
   #. Discongugate gaze:
   -CT today
   #. Acute Blood Loss: HCT stable, abdominal packings removed on [**6-18**]
   with no further evidence of bleeding.  No vaginal bleeding.
   -Daily HCT checks
   -Transfuse for any acute drops
   #. Multifocal PNA- reported on CT, sputum cultures negative with low
   grade fevers.  Patient was intubated, currently covered with empiric
   cipro, vanc, and flagyl which covers ESBL's, MRSA, pseudomonas and
   anaerobes.
   -Consider switching flagyl to zosyn to complete a course for
   ventilator-associated PNA if she spikes on this regimen.  Othewise
   complete a 10 day course until [**6-25**]
   #. IDDM: Sugars running 70-100 off of the insulin gtt since 8PM last
   night  [**Last Name (un) 303**] would like to keep insulin gtt off and check q6H finger
   sticks
   -Continue to hold insulin gtt, checking q6H fingersticks
   -[**Last Name (un) 303**] recs
   #. Tachycardia: Resolving with volume and pain management, CTA negative
   for PE
   #. Pain control- Weaned off fentanyl gtt overnight and transistioned to
   fentanyl prn, and now morphine prn.  Currently very sedated and
   reporting pain is under good control
   -Will consider morphine PCA once she is more alert and able to report
   her pain.
   ICU Care
   Nutrition:
   Glycemic Control:  holding insulin gtt
   Lines:
   Multi Lumen - [**2181-6-15**] 06:38 PM
   16 Gauge - [**2181-6-15**] 07:00 PM
   Arterial Line - [**2181-6-18**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2181-06-21 07:15:00 Physician Resident Progress Note
Chief Complaint:
   26F with placenta percreta
   24 Hour Events:
   -[**Last Name (un) 303**] recs: hold insulin gtt, QID fingersticks for now
   -Morphine switched to dilaudid secondary to nausea and dysphoria
   -Head CT with no acute hemorrhage or masses, some asymmetry of the
   lateral frontal horns.
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2181-6-20**] 07:48 PM
   Metronidazole - [**2181-6-20**] 11:48 PM
   Ciprofloxacin - [**2181-6-21**] 01:45 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2181-6-20**] 03:00 PM
   Famotidine (Pepcid) - [**2181-6-20**] 06:58 PM
   Hydromorphone (Dilaudid) - [**2181-6-21**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-6-21**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.8
   HR: 106 (67 - 119) bpm
   BP: 142/78(93) {120/64(80) - 144/90(100)} mmHg
   RR: 28 (15 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.7 kg (admission): 91 kg
   Height: 66 Inch
             Total In:
                                                                  2,628 mL
                                                                    342 mL
   PO:
             TF:
   IVF:
                                                                  2,628 mL
                                                                    342 mL
   Blood products:
   Total out:
                                                                  1,585 mL
                                                                    315 mL
   Urine:
                                                                  1,335 mL
                                                                    265 mL
   NG:
                                                                    250 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,043 mL
                                                                     27 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   228 K/uL
   10.9 g/dL
   134 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.8 mEq/L
   6 mg/dL
   105 mEq/L
   137 mEq/L
   31.6 %
   11.6 K/uL
        [image002.jpg]
                             [**2181-6-18**]  11:53 PM
                             [**2181-6-19**]  04:19 AM
                             [**2181-6-19**]  04:26 AM
                             [**2181-6-19**]  12:23 PM
                             [**2181-6-19**]  03:17 PM
                             [**2181-6-19**]  03:32 PM
                             [**2181-6-19**]  07:50 PM
                             [**2181-6-20**]  03:48 AM
                             [**2181-6-20**]  04:06 PM
                             [**2181-6-21**]  04:15 AM
   WBC
   9.9
   12.5
   13.7
   11.6
   Hct
   34.1
   33.2
   33.9
   32.0
   31.6
   Plt
   174
   178
   200
   228
   Cr
   0.5
   0.6
   0.7
   TCO2
   26
   27
   28
   28
   23
   Glucose
   174
   84
   85
   134
   Other labs: PT / PTT / INR:14.9/28.1/1.3, ALT / AST:15/25, Alk Phos / T
   Bili:72/0.4, Differential-Neuts:26.0 %, Band:52.0 %, Lymph:10.0 %,
   Mono:4.0 %, Eos:2.0 %, D-dimer:1427 ng/mL, Fibrinogen:679 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.1 g/dL, LDH:320 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: Cortisol: 25.8
   Prolactin: 152
   Microbiology: Sputum [**6-18**]: sparse oropharyngeal flora
   Blood 5/9: NGTD
   Urine [**6-21**]: NGTD
   Assessment and Plan
   26 yo F w/placenta percreta s/p c/hyst c/b massive intra-op blood
   loss.
   #. Discongugate gaze: Improved as patient was less sedated.  CT without
   masses or intracranial bleeding, only showing asymmetry in the lateral
   frontal ventricular horns.
   -Continue to monitor clinically
   -MRI if she does not improve
   #. Acute Blood Loss: HCT stable, abdominal packings removed on [**6-18**]
   with no further evidence of bleeding.  No vaginal bleeding.
   -Daily HCT checks
   -Transfuse for any acute drops
   #. Multifocal PNA- reported on CT, sputum cultures negative with low
   grade temps.  Patient was intubated, currently covered with empiric
   cipro, vanc, and flagyl which covers ESBL's, MRSA, pseudomonas and
   anaerobes.  Patient with mildly elevated temperatures but no coughs or
   clinical signs of PNA.  Per discussion with OB-GYN, they would like her
   to complete a 7 day course for the findings on CT
   -follow up CXR today to assess for stability.
   -Monitor clinically
   -Today is day [**8-13**], can d/c tomorrow
   #. IDDM: Sugars running 100-140 range off of the insulin gtt since [**6-19**]
   [**Last Name (un) 303**] would like to keep insulin gtt off and check q6H finger sticks
   -Follow up [**Last Name (un) **] recs, will likely have decreased need post-partum
   #. Pain control- Having nausea secondary to narcotics
   -continue toradol
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Comments: Insulin held
   Lines:
   Multi Lumen - [**2181-6-15**] 06:38 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2181-06-21 09:05:00 Physician Attending Progress Note
Chief Complaint: 26 y/o F with placenta percreta
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Josalin rec: qid BGT, stop insulin drip
   Nausea due to opioids, switchd to toradol for pain
   CT head neg, disconjugate gaze resolved spontaneously
   c/o weakness in LL today
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Metronidazole - [**2181-6-20**] 11:48 PM
   Ciprofloxacin - [**2181-6-21**] 01:45 AM
   Vancomycin - [**2181-6-21**] 08:16 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2181-6-20**] 03:00 PM
   Famotidine (Pepcid) - [**2181-6-20**] 06:58 PM
   Hydromorphone (Dilaudid) - [**2181-6-21**] 02:30 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-6-21**] 09:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.6
C (99.7
   HR: 77 (66 - 119) bpm
   BP: 132/70(85) {120/64(80) - 144/90(100)} mmHg
   RR: 23 (16 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 91 kg
   Height: 66 Inch
             Total In:
                                                                  2,628 mL
                                                                    600 mL
   PO:
             TF:
   IVF:
                                                                  2,628 mL
                                                                    600 mL
   Blood products:
   Total out:
                                                                  1,585 mL
                                                                    365 mL
   Urine:
                                                                  1,335 mL
                                                                    315 mL
   NG:
                                                                    250 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,043 mL
                                                                    235 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.9 g/dL
   228 K/uL
   134 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.8 mEq/L
   6 mg/dL
   105 mEq/L
   137 mEq/L
   31.6 %
   11.6 K/uL
        [image002.jpg]
                             [**2181-6-18**]  11:53 PM
                             [**2181-6-19**]  04:19 AM
                             [**2181-6-19**]  04:26 AM
                             [**2181-6-19**]  12:23 PM
                             [**2181-6-19**]  03:17 PM
                             [**2181-6-19**]  03:32 PM
                             [**2181-6-19**]  07:50 PM
                             [**2181-6-20**]  03:48 AM
                             [**2181-6-20**]  04:06 PM
                             [**2181-6-21**]  04:15 AM
   WBC
   9.9
   12.5
   13.7
   11.6
   Hct
   34.1
   33.2
   33.9
   32.0
   31.6
   Plt
   174
   178
   200
   228
   Cr
   0.5
   0.6
   0.7
   TCO2
   26
   27
   28
   28
   23
   Glucose
   174
   84
   85
   134
   Other labs: PT / PTT / INR:14.9/28.1/1.3, ALT / AST:15/25, Alk Phos / T
   Bili:72/0.4, Differential-Neuts:26.0 %, Band:52.0 %, Lymph:10.0 %,
   Mono:4.0 %, Eos:2.0 %, D-dimer:1427 ng/mL, Fibrinogen:679 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.1 g/dL, LDH:320 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: prolactin 152
   cortisol elevated
   Imaging: cxr--small volumes, rtotated, effusions layering, no new focal
   findings
   Microbiology: sputum--orophar flora
   bl ngtd
   [**6-21**] uring pending
   Assessment and Plan
   26 yo F w/placenta percreta s/p c-section/hyst c/b massive intra-op
   blood loss s/p repeat ex-lap, extubated yesterday
   # dysconjugate gaze, new
   in setting of sedation,
   resolved spontaneously
   head ct negative
   # Intra-op bleeding/placenta percreta
   without further bleeding after packing removed in OR reexploration [**6-19**]
   H/h remain stable, monitor Q 8
   # Multifocal pna on ct, asx, low grade temps, mild wbc elevation
   extubated successfully yesterday
   continue broad antibx for post-op abd per OB (discuss planned LOC) and
   reassess length of course for ? pna, as aside from ct findings
   f/u cxr tomorrow
   BDs, chest PT
   # low grade temps--
   will d/c broad antibx given 7 day course for pna
   without active sx of pna, with minimal o2 requirements and likely from
   fluid as cxr looks wet
    recheck ua (though on braod antibx will liekly not revealing)
   also with group b strep from belly from monday OR--will d/w OB
   regarding legth of treatment, as may continue vanco per thob recs
   # pain control---
   standing oxycodone with prn for breakthrough
   toradol
   if no imrpovement in control will consider pca
   # nausea--
   from ileus and narcotics, but will recheck lfts a/l today
   continue zofran/compazine
   can ativan prn
   likely [**3-10**] ileus
   bowel reg as now with active BS
   # Volume overload
   Gentle diuresis for neg fluid balance
   hold IVF
   # Tachycardia, sinus now resolved
   cta neg for PE, adequately fluid/blood resuscitatio
   # post-op ileus-now with bowel sounds, though still emesis, likely from
   anrcotics
   Monitor, npo for now, progress to clears as tolerated
   # asthma
   Cont BDs
   #  IDDM:
   Insulin gtt per protocol, follow chem sticks, remains NPO given ileus
   Will need to transition to standing insulin as pt moving toeard floor
   status, discuss with [**Last Name (un) 303**] service regarding recs, had high NPH
   requirements but currently NPO from ileus
   ICU Care
   Nutrition:
   Comments: NPO [**3-10**] ileus
   Glycemic Control:
   Lines:
   Multi Lumen - [**2181-6-15**] 06:38 PM
   Comments: try for  peripheral  access and if able, will d/c central
   line
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2181-06-22 10:25:00 Physician Attending Progress Note
Chief Complaint: resp distress
   abd abscess/pna
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   26F with placenta accreta POD7 from hysterectomy and POD 4 from
   re-exploration, now with multifocal pneumonia, SBO, and abdominal fluid
   collection
   24 Hour Events:
 MULTI LUMEN - STOP [**2181-6-21**] 05:49 PM
   resp distress--> resolved with lasix
   new ct findings concnering for abd abscess, worsening pna
                                 History obtained from Patient, ho
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2181-6-21**] 01:45 AM
   Vancomycin - [**2181-6-21**] 08:16 AM
   Metronidazole - [**2181-6-21**] 09:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-6-21**] 10:00 AM
   Morphine Sulfate - [**2181-6-22**] 09:16 AM
   Other medications:
   per ([**Month (only) **]) reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-6-22**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (99
   HR: 78 (56 - 86) bpm
   BP: 161/74(95) {132/71(86) - 161/86(99)} mmHg
   RR: 26 (18 - 28) insp/min
   SpO2: 96% ( 70% FM)
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 91 kg
   Height: 66 Inch
                  Total In:
                                                                    883 mL
                  PO:
                  TF:
   IVF:
                                                                    883 mL
   Blood products:
   Total out:
                                                                    748 mL
                                                                    400 mL
   Urine:
                                                                    648 mL
                                                                    400 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    135 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, tachypneic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Rhonchorous: )
   Abdominal: Non-tender, Bowel sounds present, No(t) Tender: ,
   post-gravid, midline incision c/d/i
   Extremities: Right: 2+, Left: 2+, dep edema
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): X 3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   311 K/uL
   110 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.5 mEq/L
   11 mg/dL
   103 mEq/L
   142 mEq/L
   32.2 %
   16.9 K/uL
        [image002.jpg]
                             [**2181-6-19**]  04:19 AM
                             [**2181-6-19**]  04:26 AM
                             [**2181-6-19**]  12:23 PM
                             [**2181-6-19**]  03:17 PM
                             [**2181-6-19**]  03:32 PM
                             [**2181-6-19**]  07:50 PM
                             [**2181-6-20**]  03:48 AM
                             [**2181-6-20**]  04:06 PM
                             [**2181-6-21**]  04:15 AM
                             [**2181-6-22**]  08:08 AM
   WBC
   9.9
   12.5
   13.7
   11.6
   16.9
   Hct
   34.1
   33.2
   33.9
   32.0
   31.6
   32.2
   Plt
   174
   178
   200
   228
   311
   Cr
   0.5
   0.6
   0.7
   0.9
   TCO2
   27
   28
   28
   23
   Glucose
   84
   85
   134
   110
   Other labs: PT / PTT / INR:18.0/31.5/1.6, ALT / AST:15/24, Alk Phos / T
   Bili:76/0.5, Amylase / Lipase:35/30, Differential-Neuts:26.0 %,
   Band:52.0 %, Lymph:10.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:1427 ng/mL,
   Fibrinogen:679 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:476
   IU/L, Ca++:7.5 mg/dL, Mg++:1.3 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: 7.48/30/89 (2 L nc)
   Imaging: cxr--reviewed--b/l effusuons layering, some improved aeration
   c/t prior
   CT--
   Microbiology: bl cx, urine, sputum pending [**6-22**]
   group b strep peritoneal fluid
   Assessment and Plan
   26F with placenta accreta POD7 from hysterectomy / c-section,  POD 4
   from re-exploration, being treated for group b strep and competed 7
   days broad antibx for multifocal pna, transferred back to MICU w/
   fevers, worsening multifocal pneumonia and chest ct, SBO, and abdominal
   fluid collection
   Fevers
   #Progressive multifocal pna/hap, nonresolving VAP
   ct chest with increased asd despite 7 days broad spec coverage
   Pan cx
   Expand and cover broadly
pcn all w/ anaphylaxis
        Continue flagyl, cipro, vanco for now
        [**Month (only) 51**] benefit from switch to [**Last Name (un) 614**]/zosyn but pnc allergic and would
   require desensitization
        Attempt induced sputum
         [**Month (only) 51**] require bronch for cx though would possibly require
   sedation/intubation for procedure
   #group b strep infection
   Vanco pending further ID recs/possible desensitization
   # possible abd abscess/seroma/blood
   Broad antibx as above
   Ob regarding additional recs
   Ct-guided drainage procedure
   # Hypoxia: multifactorial
fluid, pulmonary edema and multifocal
   pneumonia with addition of splinting from abdominal pain.
   recent CTA that was negative for PE, but ct from this am shows small
   filling defect
   check lenis
if dvt would arrange for ivc
   Sats > 98% on 70% FM
 wean o2
   Abg
   Treat pna, pain, anxiety, BD, antibx
   # SBO: new possible SBO noticed on CT Abdomen.
    ? [**3-10**] underlying inflammatory procecss in abdomen, post-surgical,
   narcotics
    -NGT to intermittent suction
    -NPO
   - d/c raglan
   -serial exams
   # bleeding
   h/h remain stable, INR mildly elevated, likely nutritional,  ffp around
   procedure, vit K
   # pain
appears primarily related to chronic LBP
   toradol, prn morpine
   # DM
   Continue Sliding scale/npo
   # Asthma:
   Continue nebs
   ICU Care
   Nutrition:
   Comments: npo
   Glycemic Control:
   Lines:  IJ
from [**6-15**]
   Comments: pivs
   Prophylaxis:
   DVT: Boots
 start sq hep
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2181-06-23 07:43:00 Physician Resident Progress Note
Chief Complaint: 26F with placenta percreta c/b 15L intrapartum
   hemorrhage, transient intubation, pulmonary embolism, multifocal
   ventilator associated pneumonia, GBS + intraperitoneal infection, and
   intra-pelvic hematoma.
   24 Hour Events:
 MULTI LUMEN - START [**2181-6-22**] 09:38 AM
   - Had fluid collection drained - 100cc hematoma drained.  Gram stain
   negative, cultures sent
   - LENI's negative, however CTA of chest re-read as + for RUL segmental
   PE, and patient started on heparin gtt after d/w OB.
   - ID recommended sputum, considering Bronch, consider tapping effusion,
   checking C. Diff, and meropenem for coverage of GBS after
   desensitization protocol which was started overnight.  Continued on
   vanco/cipro in interim w/o flagyl.
   - [**Last Name (un) 303**]: recommended starting nutrition.
   - Held PM lasix dose as had diuresed over 3L and was starting to become
   tachycardic.
   - Repeated EKG overnight for peaked T-waves on tele - no significant
   change except that her volatages are improved.
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Metronidazole - [**2181-6-22**] 11:25 AM
   Vancomycin - [**2181-6-22**] 08:30 PM
   Ciprofloxacin - [**2181-6-22**] 10:20 PM
   Meropenem - [**2181-6-23**] 04:21 AM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2181-6-22**] 09:16 AM
   Furosemide (Lasix) - [**2181-6-22**] 11:00 AM
   Famotidine (Pepcid) - [**2181-6-22**] 07:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain
   Respiratory: Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, Nausea and pain
   are well controlled
   Flowsheet Data as of  [**2181-6-23**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (99
   HR: 73 (67 - 116) bpm
   BP: 145/94(106) {139/74(95) - 178/119(130)} mmHg
   RR: 18 (18 - 43) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 91 kg
   Height: 66 Inch
             Total In:
                                                                  1,827 mL
                                                                  1,057 mL
   PO:
             TF:
   IVF:
                                                                  1,291 mL
                                                                  1,057 mL
   Blood products:
                                                                    536 mL
   Total out:
                                                                  5,810 mL
                                                                  1,540 mL
   Urine:
                                                                  5,460 mL
                                                                  1,540 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,983 mL
                                                                   -483 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, appears
   comfortable
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic), regular
   rhythm, tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, incision and
   drainage sites c/d/i
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, Tone:
   Not assessed
   Labs / Radiology
   322 K/uL
   11.1 g/dL
   107 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.3 mEq/L
   8 mg/dL
   100 mEq/L
   136 mEq/L
   32.2 %
   17.0 K/uL
        [image002.jpg]
                             [**2181-6-19**]  12:23 PM
                             [**2181-6-19**]  03:17 PM
                             [**2181-6-19**]  03:32 PM
                             [**2181-6-19**]  07:50 PM
                             [**2181-6-20**]  03:48 AM
                             [**2181-6-20**]  04:06 PM
                             [**2181-6-21**]  04:15 AM
                             [**2181-6-22**]  08:08 AM
                             [**2181-6-22**]  06:50 PM
                             [**2181-6-23**]  03:00 AM
   WBC
   12.5
   13.7
   11.6
   16.9
   17.1
   17.0
   Hct
   33.2
   33.9
   32.0
   31.6
   32.2
   31.6
   32.2
   Plt
   178
   200
   228
   [**Telephone/Fax (3) 655**]
   Cr
   0.6
   0.7
   0.9
   0.8
   0.7
   TCO2
   28
   28
   23
   Glucose
   85
   134
   110
   131
   107
   Other labs: PT / PTT / INR:18.5/120.6/1.7, ALT / AST:17/29, Alk Phos /
   T Bili:81/0.5, Amylase / Lipase:46/45, Differential-Neuts:26.0 %,
   Band:52.0 %, Lymph:10.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:1427 ng/mL,
   Fibrinogen:679 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:487
   IU/L, Ca++:7.2 mg/dL, Mg++:1.2 mg/dL, PO4:2.5 mg/dL
   Imaging: CT torso:
   1. Multiloculated pelvic fluid collection, abscess should be
   considered. The
   collection is amenable to percutaneous drainage.
   2. Acute pulmonary embolus to apical segmental branch of right upper
   lobe
   pulmonary artery.
   3. Worsening of multifocal pneumonia and bilateral now moderate pleural
   effusions.
   4. Generalized anasarca.
   LENIs: NEGative
   Microbiology: Sputum [**6-22**]: 1+ GPC in pairs and 1+ GNR, >25 PMNs <10
   epis.  Culture pending
   Blodd [**6-22**]: NGTD
   Urine [**6-22**]: NGTD
   Intra-ab fluid: NGTD
   Assessment and Plan
   26F with placenta percreta POD8 from hysterectomy and c/s  c/b 15L
   intrapartum hemorrhage requiring intra-abdominal packing with
   re-exploration (POD5), transient intubation, pulmonary embolism,
   multifocal ventilator associated pneumonia, GBS + intraperitoneal
   infection, SBO, and intra-pelvic hematoma.   She is transferred back to
   the [**Hospital Unit Name 1**] for fevers and worsening PNA on vancomycin/cipro/flagyl.
   # Multifocal PNA: Repeat CT imaging revealed worsening of pneumonia,
   with continued fevers and increasing leukocytosis despite seven days of
   broad coverage with vancomycin/cipro/flayl.  PNA occured in the setting
   of intubation, and thus must be covered for ventilator-associated
   PNA.   Patient penicillin allergic.  Sputum cultures with 1+ GPC in
   pairs and 1+ GNR
   -Await sputum cultures and sensitivities, consider bronchoscopy if not
   revealing
   -In the meantime, will add meropenam for extended coverage after
   desensitization, with ongoing vancomycin and cipro
   -ID following
   # Group B strep infection: Confirmed on peritoneal swab.  Recieved
   seven days of vancomycin due to PCN allergy with continued signs of
   active infection.  Unclear whether this is due to PNA or ongoing
   intra-abdominal infection.  CT guided drainage of intra-ab fluid
   collection revealed a hematoma rather than an abscess
   -Await intra- ab hematoma cultures
   -Added on meropenam for adequate GBS coverage
   -ID following
   # Pulmonary embolism: CT chest showed Acute pulmonary embolus to apical
   segmental branch of right upper lobe pulmonary artery
   -continue heparin gtt
   # Intra- pelvic hematoma: s/p successful CT guided drainage
   -Cultures pending
   # SBO: Patient with bilious vomiting in the setting of hysterectomy and
   placental implantation on the bowel and narcotics.
   -NGT to intermittent suction with bowel rest
   -serial abdominal exams
   -Nutrition on hold, consider TPN
   # Coagulopathy: INR elevated to 1.7, as are PT/PTT.  In the setting of
   infection.  Likely secondary to nutrition as the patient has been NPO
   for one week.
   -DIC labs pending
   -Start nutrition with TPN until SBO resolves.
   # Pain- adequately controlled with prn morhpine
   # Nausea- adequately controlled with zofran and prochlorperzine
   # Diabetes Mellitus Type II
   -[**Last Name (un) 303**] following
   -continue ISS
   # Asthma
   -continue ipratropium and albuterol
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2181-6-22**] 09:38 AM
   18 Gauge - [**2181-6-22**] 09:41 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2181-06-23 11:03:00 Physician Attending Progress Note
Chief Complaint: fever, multifocal pna
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  26F with placenta accreta POD7 from hysterectomy / c-section,
   POD 4 from re-exploration, being treated for group b strep and competed
   7 days broad antibx for multifocal pna, transferred back to MICU w/
   fevers, worsening multifocal pneumonia , SBO, and abdominal fluid
   collection
   24 Hour Events:
 MULTI LUMEN - START [**2181-6-22**] 09:38 AM
   fluid  collection drained via ct guidance--> hematoma, cx
s sent
   LENIs neg
   started heparin gtt for new PE on ct
   induced sputum sample pending
   id c/s
   meropenem desensitization
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Metronidazole - [**2181-6-22**] 11:25 AM
   Vancomycin - [**2181-6-23**] 08:00 AM
   Ciprofloxacin - [**2181-6-23**] 09:33 AM
   Meropenem - [**2181-6-23**] 10:17 AM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2181-6-22**] 11:00 AM
   Famotidine (Pepcid) - [**2181-6-23**] 08:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-6-23**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.9
C (98.4
   HR: 80 (67 - 116) bpm
   BP: 140/93(104) {139/81(96) - 178/119(130)} mmHg
   RR: 22 (18 - 43) insp/min
   SpO2: 98%  (NC 1 L)
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 91 kg
   Height: 66 Inch
             Total In:
                                                                  1,827 mL
                                                                  1,685 mL
   PO:
             TF:
   IVF:
                                                                  1,291 mL
                                                                  1,685 mL
   Blood products:
                                                                    536 mL
   Total out:
                                                                  5,810 mL
                                                                  3,310 mL
   Urine:
                                                                  5,460 mL
                                                                  3,310 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,983 mL
                                                                 -1,625 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, post-gravid
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: rhonchi: ,
   Diminished: b/b)
   Abdominal: Soft, Bowel sounds present, Distended, No(t) Tender: ,
   incision sites look c/d/i
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to:verbal,
   Movement: non focal
   Labs / Radiology
   11.1 g/dL
   322 K/uL
   107 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.3 mEq/L
   8 mg/dL
   100 mEq/L
   136 mEq/L
   32.2 %
   17.0 K/uL
        [image002.jpg]
                             [**2181-6-19**]  12:23 PM
                             [**2181-6-19**]  03:17 PM
                             [**2181-6-19**]  03:32 PM
                             [**2181-6-19**]  07:50 PM
                             [**2181-6-20**]  03:48 AM
                             [**2181-6-20**]  04:06 PM
                             [**2181-6-21**]  04:15 AM
                             [**2181-6-22**]  08:08 AM
                             [**2181-6-22**]  06:50 PM
                             [**2181-6-23**]  03:00 AM
   WBC
   12.5
   13.7
   11.6
   16.9
   17.1
   17.0
   Hct
   33.2
   33.9
   32.0
   31.6
   32.2
   31.6
   32.2
   Plt
   178
   200
   228
   [**Telephone/Fax (3) 655**]
   Cr
   0.6
   0.7
   0.9
   0.8
   0.7
   TCO2
   28
   28
   23
   Glucose
   85
   134
   110
   131
   107
   Other labs: PT / PTT / INR:18.5/120.6/1.7, ALT / AST:17/29, Alk Phos /
   T Bili:81/0.5, Amylase / Lipase:46/45, Differential-Neuts:26.0 %,
   Band:52.0 %, Lymph:10.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:1427 ng/mL,
   Fibrinogen:560 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:487
   IU/L, Ca++:7.2 mg/dL, Mg++:1.2 mg/dL, PO4:2.5 mg/dL
   Imaging: ct torso--multiloc fluid collection, acute pe rul, multifocal
   pna, effusions
   lenis neg
   cxr--improving l effusion, small r effusion, r ij ok, patchy asd R > L
   Microbiology: sputum [**6-22**] induced--cx pending
   fluid collection [**6-22**] ngtd
   Assessment and Plan
   26F with placenta accreta POD7 from hysterectomy / c-section,  POD 4
   from re-exploration, being treated for group b strep and competed 7
   days broad antibx for multifocal pna, transferred back to MICU w/
   fevers, worsening multifocal pneumonia , SBO, and abdominal fluid
   collection
   # Fever
     ## Progressive multifocal pna/ nonresolving VAP/HAP
   ct chest with increased asd despite 7 days broad spec coverage, ? group
   b pna, ID followoing
   induced sp cx pending, bl cxs pending
   antibx changed [**Last Name (un) 614**] (desensitization) +  vanco
    pending sputum results, consider bronch
     ## group b strep infection from perit fluid
   [**Last Name (un) **] as above
     ##  possible abd abscess/seroma-- tap c/w hematoma and does not
   appear to be abscess
   f/u cx
s antibxs as above
   # Hypoxia--multifactorial
fluid, pulmonary edema and multifocal
   pneumonia with addition of splinting from abdominal pain
   # pe on most recent CT (though prior ct neg)
   lenis neg
> no ind for dvt, now on hep gtt
   weaned to 1 L NC with stable sats
   Treat pna, pain, anxiety, BD
   # SBO
   exam improving now w/ + BS and passing flatus
   NGT to intermittent suction
   keep NPO
   start TPN for nutrition
    # coagulopathy
likely nutritional, start TPN,  dic labs neg
   # bleeding--resolved
   h/h remain stable
   # pain
appears primarily related to chronic LBP
   toradol, prn morpine
   add lido patch
   # DM
   Continue SSI while NPO, adjust once starting TPN /[**Last Name (un) 656**] recs
   # Asthma:
   nebs
   ICU Care
   Nutrition:
   Comments: npo
 start TPN
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2181-6-22**] 09:38 AM
 try for PIVs, picc line then d/c
   neck line or resite
   18 Gauge - [**2181-6-22**] 09:41 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2181-06-24 08:25:00 Physician Resident Progress Note
Chief Complaint: pna, pelvic hematoma
   24 Hour Events:
 BLOOD CULTURED - At [**2181-6-24**] 04:00 AM
 URINE CULTURE - At [**2181-6-24**] 04:15 AM
   -GYN recommending NPO with TPN, she will be evaluated for a PICC
   tomorrow, but may need more ports as she is getting TPN, heparin, and
   abx
   -Added lidocaine patch for back pain with good result
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Metronidazole - [**2181-6-22**] 11:25 AM
   Vancomycin - [**2181-6-23**] 08:00 PM
   Ciprofloxacin - [**2181-6-23**] 10:25 PM
   Meropenem - [**2181-6-24**] 04:00 AM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2181-6-23**] 07:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-6-24**] 08:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 82 (70 - 150) bpm
   BP: 157/86(102) {129/74(89) - 157/102(113)} mmHg
   RR: 30 (11 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 91 kg
   Height: 66 Inch
             Total In:
                                                                  3,202 mL
                                                                    630 mL
   PO:
             TF:
   IVF:
                                                                  2,959 mL
                                                                    282 mL
   Blood products:
   Total out:
                                                                  6,080 mL
                                                                    850 mL
   Urine:
                                                                  6,080 mL
                                                                    750 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,878 mL
                                                                   -219 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///33/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   317 K/uL
   11.2 g/dL
   128 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.3 mEq/L
   10 mg/dL
   98 mEq/L
   139 mEq/L
   32.1 %
   16.9 K/uL
        [image002.jpg]
                             [**2181-6-19**]  03:17 PM
                             [**2181-6-19**]  03:32 PM
                             [**2181-6-19**]  07:50 PM
                             [**2181-6-20**]  03:48 AM
                             [**2181-6-20**]  04:06 PM
                             [**2181-6-21**]  04:15 AM
                             [**2181-6-22**]  08:08 AM
                             [**2181-6-22**]  06:50 PM
                             [**2181-6-23**]  03:00 AM
                             [**2181-6-24**]  03:50 AM
   WBC
   12.5
   13.7
   11.6
   16.9
   17.1
   17.0
   16.9
   Hct
   33.2
   33.9
   32.0
   31.6
   32.2
   31.6
   32.2
   32.1
   Plt
   178
   200
   228
   [**Telephone/Fax (3) 655**]
   317
   Cr
   0.6
   0.7
   0.9
   0.8
   0.7
   0.7
   TCO2
   28
   23
   Glucose
   85
   134
   110
   131
   107
   128
   Other labs: PT / PTT / INR:15.8/55.8/1.4, ALT / AST:17/29, Alk Phos / T
   Bili:81/0.5, Amylase / Lipase:46/45, Differential-Neuts:26.0 %,
   Band:52.0 %, Lymph:10.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:1427 ng/mL,
   Fibrinogen:560 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:487
   IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Imaging: none new
   Microbiology: cx fluid ngtd  with neg. gram stain
   Assessment and Plan
   26F with placenta percreta POD8 from hysterectomy and c/s  c/b 15L
   intrapartum hemorrhage requiring intra-abdominal packing with
   re-exploration (POD5), transient intubation, pulmonary embolism,
   multifocal ventilator associated pneumonia, GBS + intraperitoneal
   infection, SBO, and intra-pelvic hematoma.   She is transferred back to
   the [**Hospital Unit Name 1**] for fevers and worsening PNA on vancomycin/cipro/flagyl.
   # Multifocal PNA: Repeat CT imaging revealed worsening of pneumonia,
   with continued fevers and increasing leukocytosis despite seven days of
   broad coverage with vancomycin/cipro/flayl.  PNA occured in the setting
   of intubation, and thus must be covered for ventilator-associated
   PNA.   Patient penicillin allergic.  Sputum cultures with 1+ GPC in
   pairs and 1+ GNR
   -Await sputum cultures and sensitivities, consider bronchoscopy if not
   revealing
   -In the meantime, will add meropenam for extended coverage after
   desensitization, with ongoing vancomycin and cipro
   -ID following
   # Group B strep infection: Confirmed on peritoneal swab.  Recieved
   seven days of vancomycin due to PCN allergy with continued signs of
   active infection.  Unclear whether this is due to PNA or ongoing
   intra-abdominal infection.  CT guided drainage of intra-ab fluid
   collection revealed a hematoma rather than an abscess
   -Await intra- ab hematoma cultures
   -Added on meropenam for adequate GBS coverage
   -ID following
   # Pulmonary embolism: CT chest showed Acute pulmonary embolus to apical
   segmental branch of right upper lobe pulmonary artery
   -continue heparin gtt
   # Intra- pelvic hematoma: s/p successful CT guided drainage
   -Cultures pending
   # SBO: Patient with bilious vomiting in the setting of hysterectomy and
   placental implantation on the bowel and narcotics.
   -NGT to intermittent suction with bowel rest
   -serial abdominal exams
   -Nutrition on hold, consider TPN
   # Coagulopathy: INR elevated to 1.7, as are PT/PTT.  In the setting of
   infection.  Likely secondary to nutrition as the patient has been NPO
   for one week.
   -DIC labs negative
   -Start nutrition with TPN until SBO resolves.
   # Pain- adequately controlled with prn morhpine
   # Nausea- adequately controlled with zofran and prochlorperzine
   # Diabetes Mellitus Type II
   -[**Last Name (un) 303**] following
   -continue ISS
   # Asthma
   -continue ipratropium and albuterol
   ICU Care
   Nutrition:
   TPN without Lipids - [**2181-6-23**] 06:10 PM 41.[**Telephone/Fax (5) 662**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2181-6-22**] 09:38 AM
   18 Gauge - [**2181-6-22**] 09:41 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2181-06-24 12:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   26F with placenta accreta POD7 from hysterectomy / c-section,  POD 4
   from re-exploration, being treated for group b strep and competed 7
   days broad antibx for multifocal pna, transferred back to MICU w/
   fevers, worsening multifocal pneumonia , SBO, and abdominal fluid
   collection
   24 Hour Events:
 BLOOD CULTURED - At [**2181-6-24**] 04:00 AM
 URINE CULTURE - At [**2181-6-24**] 04:15 AM
   TPN started
   awaits picc line placement
   lidopatch added for back pain
   Allergies:
   Penicillins
   Anaphylaxis;
   Last dose of Antibiotics:
   Metronidazole - [**2181-6-22**] 11:25 AM
   Vancomycin - [**2181-6-24**] 08:25 AM
   Meropenem - [**2181-6-24**] 10:20 AM
   Ciprofloxacin - [**2181-6-24**] 10:50 AM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2181-6-23**] 07:45 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-6-24**] 12:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 85 (70 - 150) bpm
   BP: 152/86(97) {115/69(89) - 161/91(113)} mmHg
   RR: 27 (11 - 30) insp/min
   SpO2: 97% -100% (3L)
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 91 kg
   Height: 66 Inch
             Total In:
                                                                  3,202 mL
                                                                  1,339 mL
   PO:
             TF:
   IVF:
                                                                  2,959 mL
                                                                    857 mL
   Blood products:
   Total out:
                                                                  6,080 mL
                                                                  3,340 mL
   Urine:
                                                                  6,080 mL
                                                                  3,240 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,878 mL
                                                                 -2,001 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///33/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   r, Diminished: l base)
   Abdominal: Soft, Bowel sounds present, Tender: diffusely
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.2 g/dL
   317 K/uL
   128 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.3 mEq/L
   10 mg/dL
   98 mEq/L
   139 mEq/L
   32.1 %
   16.9 K/uL
        [image002.jpg]
                             [**2181-6-19**]  03:17 PM
                             [**2181-6-19**]  03:32 PM
                             [**2181-6-19**]  07:50 PM
                             [**2181-6-20**]  03:48 AM
                             [**2181-6-20**]  04:06 PM
                             [**2181-6-21**]  04:15 AM
                             [**2181-6-22**]  08:08 AM
                             [**2181-6-22**]  06:50 PM
                             [**2181-6-23**]  03:00 AM
                             [**2181-6-24**]  03:50 AM
   WBC
   12.5
   13.7
   11.6
   16.9
   17.1
   17.0
   16.9
   Hct
   33.2
   33.9
   32.0
   31.6
   32.2
   31.6
   32.2
   32.1
   Plt
   178
   200
   228
   [**Telephone/Fax (3) 655**]
   317
   Cr
   0.6
   0.7
   0.9
   0.8
   0.7
   0.7
   TCO2
   28
   23
   Glucose
   85
   134
   110
   131
   107
   128
   Other labs: PT / PTT / INR:15.8/55.8/1.4, ALT / AST:17/29, Alk Phos / T
   Bili:81/0.5, Amylase / Lipase:46/45, Differential-Neuts:26.0 %,
   Band:52.0 %, Lymph:10.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:1427 ng/mL,
   Fibrinogen:560 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:487
   IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: DIC labs neg
   Imaging: no new film
   Microbiology: urine/blood ngtd
   sputum 1+ gp, 1 + gn, cx's ngtd
   hematoma fluid 1 + polys, neg gr s
      cx's ngtdt
   Assessment and Plan
   26F with placenta accreta POD7 from hysterectomy / c-section,  POD 4
   from re-exploration, being treated for group b strep and competed 7
   days broad antibx for multifocal pna, transferred back to MICU w/
   fevers, worsening multifocal pneumonia , SBO, and abdominal fluid
   collection
   # Fevers-- over all improving
     ## Progressive multifocal pna/ nonresolving VAP/HAP
   ct chest with increased asd despite 7 days broad spec coverage, ? group
   b pna, ID followoing
   induced sp cx pending, bl cxs pending
   antibx changed [**Last Name (un) 614**] day 2 (desensitization) +  cipro + vanco
   pending sputum results, consider bronch
   clinically improving, would rescan in next few days to assess for
   improvement
     ## group b strep infection from perit fluid
   [**Last Name (un) **] as above
     ##  possible abd abscess/seroma-- tap c/w hematoma and does not
   appear to be abscess
   cx pending
   # Hypoxia--multifactorial
>fluid, pulmonary edema and multifocal
   pneumonia
   # pe on most recent CT (though prior ct neg)
   lenis neg
> no ind for IVC filter, now on hep gtt
   switch to lovenox
   weaned to 1 L NC with stable sats
   Treat pna, pain, anxiety, BD
   # SBO
   exam improving now w/ + BS and passing flatus
   NGT to intermittent suction
   keep NPO
   TPN for nutrition
   # coagulopathy
likely nutritional, start TPN,  dic labs neg
   # bleeding--resolved
   h/h remain stable
   # painadequate control
   toradol, prn morpine
   lido patch
   # DM
   Continue SSI while NPO, adjust once starting TPN /[**Last Name (un) 656**] recs
   # Asthma
   nebs
   ICU Care
   Nutrition:
   TPN without Lipids - [**2181-6-23**] 06:10 PM 41.[**Telephone/Fax (5) 662**] mL/hour
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2181-6-22**] 09:38 AM
   Comments: picc line, then d/c neck line
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill